US05928558
1-Butyl-3-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)urea
To a stirred solution of 1.0 g of 1-oxyl-4-amino-2,2,6,6-tetramethylpiperidine in 75 mL of dry toluene is added dropwise 0.65 mL of butyl isocyanate. The reaction mixture is stirred for 16 hours. The solution is then concentrated to yield the title compound as a red oil.

reactant | 1-oxyl-4-amino-2,2,6,6-tetramethylpiperidine | 1.0 g | ON1C(CC(CC1(C)C)N)(C)C | C9H20N2O
reactant | butyl isocyanate | 0.65 mL | C(CCC)N=C=O | C5H9NO
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Butyl-3-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)urea | C(CCC)NC(=O)NC1CC(N(C(C1)(C)C)O)(C)C | C14H29N3O2
